US04923640
30 g of 3-methoxy-18-methyl-1,3,5(10)-estratrien-17-one [J. Org. Chem. 40 (1975) 681] is stirred for 22 hours at 120° C. in 200 ml of isopropenylacetate with 1.5 g of p-toluenesulfonic acid. It is then diluted with ethyl acetate, washed with sodium carbonate and a common salt (NaCl) solution, dried over sodium sulfate and concentrated. After chromatography, 27.6 g of 17-acetoxy-3-methoxy-18-methyl-1,3,5(10),16-estratetraene with a melting point of 105°-106° C. is obtained.

reactant | 3-methoxy-18-methyl-1,3,5(10)-estratrien-17-one | 30 g | COC1=CC=2CC[C@H]3[C@@H]4CCC([C@@]4(CC)CC[C@@H]3C2C=C1)=O | C20H26O2
reactant | p-toluenesulfonic acid | 1.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | isopropenylacetate | 200 ml | C(=C)(C)CC(=O)[O-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 17-acetoxy-3-methoxy-18-methyl-1,3,5(10),16-estratetraene | 27.6 g | C(C)(=O)OC=1[C@]2(CC)[C@@H](CC1)[C@@H]1CCC=3C=C(C=CC3[C@H]1CC2)OC | C22H28O3
